US04482501
292.9 Parts of 2-methyl-4-acetylamino-5-methoxyphenyl-β-hydroxyethylsulfone (purity: 98%) and 500 parts of diatomaceous earth were fed into a dispersion kneader (manufactured by Inoue Seisakusho) operated at 70 r.p.m. and then 210 parts of 70% sulfuric acid (molar ratio: 1.5) were added thereto. The mixture was maintained at 95° to 100° C. under reduced pressure (300 mmHg) for 7 hours while distilling off the produced water and acetic acid. The reaction product was analyzed by liquid chromatography, obtaining 2-methyl-4-amino-5-methoxyphenyl-β-hydroxyethylsulfone in a 94% yield.

reactant | 2-methyl-4-acetylamino-5-methoxyphenyl-β-hydroxyethylsulfone | CC1=C(C=C(C(=C1)NC(C)=O)OC)C(CS(=O)(=O)CC(C1=C(C=C(C(=C1)OC)NC(C)=O)C)O)O | C24H32N2O8S
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-methyl-4-amino-5-methoxyphenyl-β-hydroxyethylsulfone | 94% yield | CC1=C(C=C(C(=C1)N)OC)C(CS(=O)(=O)CC(C1=C(C=C(C(=C1)OC)N)C)O)O | C20H28N2O6S
